US07872028B2
Step 1. (R)-3-((S)-1-(2-(2-Ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carbonyl Chloride
To a solution of (S)-1-(2-(2-ethylphenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (19.9 mg, 0.05 mmol) and pyridine (20 μL, 0.15 mmol) in CH2Cl2 (2 mL) at 0° C. was added triphosgene (22.7 mg, 0.08 mmol) in CH2Cl2 (0.5 mL). The resulting solution was warmed to rt, and stirred for 1 h. The completion of reaction was confirmed by LC-MS, and the product was used for next step without workup.

reactant | (S)-1-(2-(2-ethylphenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 0.05 mmol, 19.9 mg | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CNCCC2)C=CC=C1 | C25H35NO3
reactant | pyridine | 0.15 mmol, 20 μL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 0.08 mmol, 22.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-((S)-1-(2-(2-Ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carbonyl Chloride | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)Cl)C=CC=C1 | C26H34ClNO4
